US08349880B2
Step AD (1): 2-(2,4-Dichlorophenyl)acetic acid (10.25 g, 50.0 mmol) was deprotonated with NaHMDS (1.0 M in THF, 100 mL, 100 mmol) and reacted with 1-chloro-3-iodopropane (5.27 mL, 50.0 mmol) using a procedure analogous to Step AC (1) to afford, after purification by silica gel column chromatography, 5-chloro-2-(2,4-dichlorophenyl)pentanoic acid (8.15 g, 28.9 mmol, 58% yield) as a colorless oil. MS (M+H)+ 280.9. 1H NMR (500 MHz, chloroform-d) δ ppm 7.47 (d, J=2.14 Hz, 1 H) 7.34-7.40 (m, 1 H) 7.28-7.33 (m, 1 H) 4.22 (t, J=7.48 Hz, 1 H) 3.57 (t, J=6.41 Hz, 2 H) 2.27 (dddd, J=13.08, 10.64, 7.55, 5.34 Hz, 1 H) 1.95-2.05 (m, 1 H) 1.82-1.92 (m, 1 H) 1.68-1.81 (m, 1 H).

reactant | 2-(2,4-Dichlorophenyl)acetic acid | 50.0 mmol, 10.25 g | ClC1=C(C=CC(=C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | NaHMDS | 100 mmol, 1.0 M, 100 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-chloro-3-iodopropane | 50.0 mmol, 5.27 mL | ClCCCI | C3H6ClI
product | 5-chloro-2-(2,4-dichlorophenyl)pentanoic acid | 28.9 mmol, 8.15 g, 58% yield | ClCCCC(C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C11H11Cl3O2
